* Z:\mnt\design.r\spice\examples\3408.asc
V1 IN 0 3.6
L1 N001 OUT 4.7µ
Rload OUT 0 3
XU1 OUT IN 0 N001 IN N002 LTC3408
V2 N002 0 .6
C2 OUT 0 4.7µ
.tran 100u startup
.lib LTC3408.sub
.backanno
.end
